US04472305
Condensation of BocPro-DTrp-PheOH (0.88 g.) and HDLys(Boc)-Leu-MetNH2 (0.68 g.) using dicyclohexylcarbodiimide and 1-hydroxybenzotriazole gave BocPro-DTrp-Phe-DLys(Boc)-Leu-MetNH2 in 46% yield. De-t-butoxycarbonylation of BocPro-DTrp-Phe-DLys(Boc)-Leu-MetNH2 (560 mg.) using trifluoroacetic acid in dimethyl sulfide and ethanedithiol gave HPro-DTrp-Phe-DLys-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (1:1) acetate (1:3) salt in 26% yield.

reactant | BocPro-DTrp-PheOH | 0.88 g | N1([C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1)C(=O)OC(C)(C)C | C30H36N4O6
reactant | HDLys(Boc)-Leu-MetNH2 | 0.68 g | N[C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N | C22H43N5O5S
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
product | BocPro-DTrp-Phe-DLys(Boc)-Leu-MetNH2 | 46% yield | N1([C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C52H77N9O10S
